US05081287
Under a nitrogen atmosphere, a stirred solution of 2.0 grams (0.009 mole) of methyl 10,10-difluoro-9-decenyl ketone in 25 ml of diethyl ether was cooled to 0° C., and 2.96 ml (0.009 mole) of methylmagnesium bromide (3.1 Molar solution) was added via syringe. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature. Analysis of the reaction mixture by gas chromatography indicated that the reaction had stopped at approximately 50% of completion. An additional 3.0 ml of methylmagnesium bromide was added via syringe, and the reaction mixture was allowed to stir for 18 hours. After this time the reaction mixture was poured into 20 ml of ice containing 5 ml of an aqueous 10% hydrochloride acid solution. The aqueous layer was separated and washed with three 10 ml portions of diethyl ether. The extracts were combined with the organic layer, and the combination was washed with three 10 ml portions of water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was subjected to column chromatography on silica gel. Elution was accomplished with methylene chloride and then with methanol. The appropriate fractions were combined and concentrated under reduced pressure yielding 1.1 grams of 12,12-difluoro-2-methyl-11-dodecen-2-ol. The nmr spectrum was consistent with the proposed structure.

reactant | methyl 10,10-difluoro-9-decenyl ketone | 0.009 mole, 2.0 grams | FC(=CCCCCCCCCC(=O)C)F | C12H20F2O
reactant | methylmagnesium bromide | 0.009 mole, 3.1 Molar, 2.96 ml | C[Mg]Br
reactant | methylmagnesium bromide | 3.0 ml | C[Mg]Br
reactant | hydrochloride | Cl | ClH
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 12,12-difluoro-2-methyl-11-dodecen-2-ol | 1.1 grams | FC(=CCCCCCCCCC(C)(O)C)F | C13H24F2O
